US07951818B2
D.14. 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-isoindol-1-one
Bis(diphenylphosphino)ferrocene-palladium(II) dichloride (50 mg, 0.06 mmol) is mixed with potassium acetate (600 mg, 6.14 mmol) and bis(pinacolato)diboron (572 mg, 2.25 mmol) in a 5 mL microwave tube. The tube is purged 3 times with vacuum and nitrogen before adding a nitrogen degassed solution of 4-bromo-2,3-dihydro-isoindol-1-one (434 mg, 2.05 mmol) in 1,4-dioxane. Nitrogen is bubbled for 5 minutes through the mixture, and then the tube is sealed and heated to 85° C. for 16 hours. The reaction mixture is cooled to room temperature and filtered through a celite pad. The filtrate is evaporated to yield the title compound, which is used as such for the next step.

reactant | potassium acetate | 6.14 mmol, 600 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.25 mmol, 572 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 4-bromo-2,3-dihydro-isoindol-1-one | 2.05 mmol, 434 mg | BrC1=C2CNC(C2=CC=C1)=O | C8H6BrNO
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Bis(diphenylphosphino)ferrocene palladium(II) dichloride | 0.06 mmol, 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].[Pd](Cl)Cl
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-isoindol-1-one | CC1(OB(OC1(C)C)C1=C2CNC(C2=CC=C1)=O)C | C14H18BNO3
